US06965048B2
To an ice-cooled solution of 10 g (36.8 mmol) of trans-[2-(4-hydroxymethyl-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester in 100 mL of CH2Cl2 were added 3.15 mL (40.5 mmol, 1.3 eq) of methanesulfonyl chloride followed by 6.68 mL (47.9 mmol, 1.3 eq) of triethylamine. Then the reaction mixture was stirred at RT for 1 h. 1M HCl was added, the phases were separated and the inorganic phase was washed with ether. The combined organic phases were washed with water and dried over magnesium sulfate. Concentration of the solution yielded 12.64 g (98%) of trans-methanesulfonic acid 4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexylmethyl ester as colorless oil, MS: 367 (M+NH4+).

reactant | trans-[2-(4-hydroxymethyl-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 36.8 mmol, 10 g | C(C)(C)(C)OC(N(C)CC[C@@H]1CC[C@H](CC1)CO)=O | C15H29NO3
reactant | methanesulfonyl chloride | 40.5 mmol, 3.15 mL, 1.3 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 47.9 mmol, 6.68 mL, 1.3 eq | C(C)N(CC)CC | C6H15N
reactant | HCl | 1M | Cl | ClH
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | trans-methanesulfonic acid 4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexylmethyl ester | 12.64 g, 98% | C(C)(C)(C)OC(=O)N(CC[C@@H]1CC[C@H](CC1)COS(=O)(=O)C)C | C16H31NO5S
